*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e+00[uF]/10[V]
* Murata P/N :GRM153R61A105ME95
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM153R61A105ME95 Port1 Port2
C01 Port1 N01 7.95e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.80e-10
R03 N02 N03 1.73e-02
C04 N03 N04 3.13e-05
R04 N03 N04 1.35e+02
C05 N04 N05 4.36e-05
R05 N04 N05 1.55e+01
C06 N05 N06 5.52e-05
R06 N05 N06 1.67e+00
C07 N06 N07 6.27e-05
R07 N06 N07 1.60e-01
C08 N07 N08 5.76e-05
R08 N07 N08 2.19e-02
C09 N08 N09 7.50e-05
R09 N08 N09 5.54e-03
L10 N09 N10 1.43e-11
R10 N09 N10 1.33e-01
L11 N10 N11 5.75e-11
R11 N10 N11 1.25e-01
C12 N11 N12 2.69e-08
L12 N11 N12 8.44e-11
R12 N11 N12 2.20e-02
C13 N12 Port2 3.50e-11
L13 N12 Port2 1.17e-11
R13 N12 Port2 9.20e-01
.ENDS GRM153R61A105ME95
